US08492582B2
Ethylene glycol dimethyl ether (12 mL), water (3.6 mL), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.49 g), sodium carbonate (0.50 g), and bis(triphenylphosphine)palladium(II) dichloride (14 mg) were added to tert-butyl 2-(2-(benzyloxy)-4-iodobenzamido)-4-phenylbenzoate (1.2 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and bis(triphenylphosphine)palladium(II) dichloride (28 mg) was added thereto, followed by heating to reflux under a nitrogen atmosphere for 4 hours. The reaction mixture was cooled to room temperature, and bis(triphenylphosphine)palladium(II) dichloride (28 mg) was added thereto, followed by heating to reflux under a nitrogen atmosphere for 4 hours. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 80-60% hexane/ethyl acetate] to obtain 0.55 g of tert-butyl 2-(2-(benzyloxy)-4-(pyridin-4-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | Ethylene glycol dimethyl ether | 12 mL | COCCOC | C4H10O2
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.49 g | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | sodium carbonate | 0.50 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl 2-(2-(benzyloxy)-4-iodobenzamido)-4-phenylbenzoate | 1.2 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)I | C31H28INO4
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 3.6 mL | O | H2O
product | tert-butyl 2-(2-(benzyloxy)-4-(pyridin-4-yl)benzamido)-4-phenylbenzoate | 0.55 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C1=CC=NC=C1 | C36H32N2O4
